US04918081
A solution of 25 g of p-hydroxybenzaldehyde and 28 ml of quinaldine is 100 ml of acetic anhydride are heated at 130° C. overnight. The reaction mixture is concentrated in vacuo and then passed through a flash silica gel column slurry packed with hexanes and eluted with 15% acetone in hexanes. Concentration of the desired fractions gives a yellow solid which is recrystalized from Et2O/hexanes to give 2-(2-(4-acetoxyphenyl)ethenyl)quinoline (M.P. 127°-128° C.).

reactant | p-hydroxybenzaldehyde | 25 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | quinaldine | 28 ml | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-(4-acetoxyphenyl)ethenyl)quinoline | C(C)(=O)OC1=CC=C(C=C1)C=CC1=NC2=CC=CC=C2C=C1 | C19H15NO2
